US07279481B2
1-(2-(Methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2-imidazolidinone dihydrochloride (E134)
The title compound was prepared in 38% yield according to the general procedure for the synthesis of cyclic ureas and carbamates (Method G).starting from 2-(methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline and 1-chloro-2-isocyanatoethane.

reactant | 2-(methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}aniline | COC1=C(N)C=CC=C1CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C23H28N4O
reactant | 1-chloro-2-isocyanatoethane | ClCCN=C=O | C3H4ClNO
product | 1-(2-(Methoxy)-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2-imidazolidinone dihydrochloride | 38% yield | Cl.Cl.COC1=C(C=CC=C1CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)N1C(NCC1)=O | InChI=1S/C26H31N5O2.2ClH/c1-19-9-10-21-22(28-19)6-4-7-23(21)30-17-15-29(16-18-30)13-11-20-5-3-8-24(25(20)33-2)31-14-12-27-26(31)32;;/h3-10H,11-18H2,1-2H3,(H,27,32);2*1H
